US07799805B2
N-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-3,3,3-trifluoro-propionamide
TBTU (3.37 g, 10.5 mmol) was added to a sol. of 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzylamine (2.00 g, 7.00 mmol), DIPEA (4.80 mL, 28.0 mmol) and 3,3,3-trifluoropropionic acid (0.927 mL, 10.5 mmol) in CH2Cl2 (70 mL). The mixture was stirred at rt for 1 h. CH2Cl2 (30 mL) was added, and the mixture was washed with aq. sat. NH4Cl (2×), aq. 1M NaOH (1×) and brine (1×). The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 40:60) yielded the title compound (1.80 g, 65%). LC-MS: tR=1.10 min; ES+: 396.15.

reactant | TBTU | 10.5 mmol, 3.37 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzylamine | 7.00 mmol, 2.00 g | C(C)(C)(C)[SiH2]OC(C=1C=C(CN)C=CC1Cl)(C)C | C14H24ClNOSi
reactant | DIPEA | 28.0 mmol, 4.80 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,3,3-trifluoropropionic acid | 10.5 mmol, 0.927 mL | FC(CC(=O)O)(F)F | C3H3F3O2
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-3,3,3-trifluoro-propionamide | 1.80 g, 65% | C(C)(C)(C)[SiH2]OC(C=1C=C(CNC(CC(F)(F)F)=O)C=CC1Cl)(C)C | C17H25ClF3NO2Si
